US07101692B2
Purification of Sortase by Addition of Histidine Taq
Reactions were assembled in a volume of 260 μl containing 50 mM Hepes buffer, 150 mM NaCl, pH 7.5 and as indicated 5 μM SrtADN in 50 mM BisTris, pH 7.5, 10 μM LPXTG peptide (DABCYL-QALPETGEE-EDANS), 10 μM TGXLP peptide (DABCYL-QATGELPEE-EDANS), 5 mM MTSET, 0.2 M NH2OH, 5 mM pHMB or 10 mM DTT. Incubations were carried out for 1 hour at 37° C. Samples were analyzed in a fluorimeter using 395 nm for excitation and 495 nm for recordings.

reactant | Hepes | 50 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | MTSET | 5 mM | C[N+](C)(C)CCSS(=O)(=O)C.[Br-]
reactant | NH2OH | 0.2 M | NO | H3NO
reactant | pHMB | 5 mM | CCCCCCN=C(N)N=C(N)N | C8H19N5
reactant | DTT | 10 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | BisTris | 50 mM | C(CO)N(CCO)C(CO)(CO)CO | C8H19NO5
product | Histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
